Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Acute stroke, Aspiration PNA, Rhabdomyolysis
 
Major Surgical or Invasive Procedure:
Mechanical Intubation
PEG tube placement
PICC line placement

 
History of Present Illness:
Ms ___ is a ___ year-old female with history of 
schizoaffective disorder, history of stroke, and hypothyroidism 
who was admitted to the cardiology service on ___ with an 
NSTEMI and an acute stroke after a fall on the night of ___. 
Per the admit note she tried to go to the bathroom around 1 am, 
tripped and fell and wasn't able to get up. She was found in a 
prone position by an aide. Upon arrival in the ED she was 
reportedly dysarthric and neurology was consulted due to concern 
for stroke. She was also noted to have ___ upper extremity 
strength. CT head and ___ were initially negative for any 
acute process. EKG showed no ischmic changes, however trop 
returned 0.68 with a CK of 3362. She was admitted to ___ for 
NSTEMI on a heparin gtt.  
.  
On the floor she continued to have dysarthric speech. MRI of her 
brain was ordered which did show bilateral subacute ischemic 
changes in both basal ganglia and body of the caudate nucleus on 
the right with no hemorrhagic changes. CK's trended upwards, 
concerning for rhabdo and her Cr on admission was elevated, but 
has since trended downwards with IVF. Cardiology felt that her 
troponin leak was likely due to demand ischemia. Her heparin gtt 
was stopped shortly after admission. Neurology consult team has 
been following.  
.  
Ortho ___ had also been consulted due to the fall and she has 
had CT of her ___ which ___ significant canal stenosis 
which could predispose to cord trauma even after minor injury so 
a MRI of ___ was done to rule out acute cord injury which 
was limited due to motion artifact. Ortho ___ did subsequently 
clear her cervical ___ in the am of ___ and her collar was 
removed.  
.  
She was noted to have paradoxical breathing which initially 
improved after her cervical collar was removed, which 
subsequently worsened. With a respiratory rate is in the mid 
30___ and 95% oxygen saturation on a face mask, she was found to 
have a WBC 20K and repeat CXR showed right-sided opacity 
concerning for possible aspiration PNA.  She was started on 
vanc, cefepime, and flagyl prior to transfer to the medical ICU. 
 
.  
On arrival to the MICU she continued to have paradoxical 
breathing and was very lethargic. She was subsequently 
stabilized, and transferred back to the medical floor for 
continued management.

 
Past Medical History:
# Hypothyroidism  
# Schizoaffective disorder  
# Multipel lacunar infarcts  
# Left Cataract  
# Mamogram: ___: Possible developing density of the R 
breast laterally on C view. Increasing prominence of axillary 
tail lymph nodes.  

 
Social History:
___
Family History:
Brother with MI in ___ or ___. 
 
Physical Exam:
Admission Exam to ___
VS: T=95.8 BP=136/55 HR=84 RR=20 94O2 sat= 2L  
GENERAL: Obsese female with red face, ___ edema  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, with mild pallor, no cyanosis of the oral mucosa. No 
xanthalesma.  
NECK: JVP was unassessed due cervical collar.  
CARDIAC: Faint S1 and S2, no S3 or S4, no murmurs appreciated.  
LUNGS: No chest wall deformities, scoliosis or kyphosis.  
Patient had an end expiratory wheeze, with wheezes appreciated 
anteriorly.    
ABDOMEN: Soft, NTND. No HSM or tenderness.   
EXTREMITIES: No c/c/e. DP 2+  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
L/R carotid could not be assessed due to cervical collar. 
.
Admission to MICU
GEN: Elderly female lying in bed with paradoxical breathing.  
HEENT: Pupils small, but reactive and equal, anicteric, face 
mask present. Abrasions over her face.  
RESP: Tachypneic with respiratory muscle use. Coarse breath 
sounds anteriorly bilaterally.  
CV: RRR, no MRG  
ABD: +BS, soft, obese, NTND. No HSM.  
EXT: no c/c/e, 2+ DP  
NEURO: Lethargic, does not open eyes to command. Will very 
slightly move fingers and toes to a combination of verbal and 
tactile stimulus. hyperreflexic biceps and brachioradialis 
reflexes b/l. Down-going Babinskis bilaterally.  
.
Discharge Exam
Vitals: 97.9 (m98.3) 125/79 (121-129/50-79) 63 (60-72) 20 98% RA
Gen: no acute distress; speech appears to be improving
HEENT: EOMI
Neck: Supple
CV: RRR, +S1, S2, no m/r/g
Resp: CTA bilaterally on anterior exam
Abd: Moderate tenderness to palpation in LLQ. No rigidity or 
rebound.
Ext: W/WP, 1+ DP pulses, no edema
Neuro: Speech improving.  

 
Pertinent Results:
Admission Labs:
___ 11:22AM   GLUCOSE-125* LACTATE-3.2* NA+-147 K+-3.8 
CL--108 TCO2-23
___ 11:16AM   CK-MB-39* MB INDX-1.2
___ 11:16AM   CK(CPK)-3362*
___ 11:16AM   LIPASE-47
___ 11:16AM   cTropnT-0.68*
___ 11:16AM   WBC-18.0* RBC-5.37 HGB-15.3 HCT-46.3 MCV-86 
MCH-28.5 MCHC-33.1 RDW-13.7
___ 11:16AM   PLT COUNT-206
___ 11:16AM URINE  BLOOD-LG NITRITE-NEG PROTEIN-500 
GLUCOSE-NEG KETONE-TR BILIRUBIN-SM UROBILNGN-NEG PH-5.0 LEUK-TR
___ 11:16AM URINE  RBC-0 ___ BACTERIA-MANY YEAST-NONE 
EPI-0

Labs on transfer to MICU:
Na 149  K 3.8  Cl 113  Bicarb 25  BUN 18  Cr 1.1  Glu 117
Ca 9.7  Mg 1.8  Phos 2.8
.
TSH 0.93    Lithium 0.3
CK 9174 <-  9641  <- 3362  
MB  62  <-  84    <-  ___
MBI 0.7 <-  0.9   <-  1.2
Trop        0.56
.
WBC 20.0  Hct 41.1  Plt 230
.
PTT 40.4
.
ABG 7.38  pCO2 42  pO2 60    Lactate 1.3   9am
ABG 7.32  pCO2 52  pO2 80   Lactate 1.5    7 pm
.
UA ___ WBC, ___ RBC, neg leu, neg nitr
.
Discharge Labs:
WBC 9.1, HCT 35.7, INR 1.1\
137/4.1/101/___/1.1
.  
EKG:  
normal sinus rhythm, nl axis, nl intervals, no STE or STD
.  
Imaging: 
TTE ___:
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF 70%). The right ventricular free wall is hypertrophied. 
The right ventricular cavity is dilated with borderline normal 
free wall function. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Trivial mitral 
regurgitation is seen. There is no pericardial effusion.  
. 
CT head ___:
Bilateral basal ganglial infarcts ( acute - subacute and a few 
chronic alcunar infarcts) without evidence of hemorrhagic 
transformation or hydrocephalus or significant mass effect. Pl. 
see prior MR for additional 
details.  
.
CXR ___:
Bilateral enlargement of the hila is redemonstrated. There is 
also upper zone redistribution. These findings may represent a 
combination of pulmonary arteriovenous hypertension but no 
pulmonary edema is seen. The left lower lobe opacity appears to 
be unchanged since the prior study and might represent a 
combination of atelectasis, aspiration or infection. Upper lungs 
are clear. 
.
CT head without contrast ___: 
IMPRESSION: No evidence for acute intracranial process.
.
CXR ___:
IMPRESSION: No evidence for acute cardiopulmonary process. Left 
upper lung opacity versus bony sclerotic focus could be further 
evaluated with non-urgent chest CT. 
.
CT ___ ___:
IMPRESSION: No fracture or malalignment noted. There is 
significant canal stenosis at C5-C6 due to an eccentric disc 
osteophyte complex which predisposes to cord injury even from 
minor trauma. Given apparent neurologic deficit, consider MRI 
for further evaluation to assess for cord injury, not assessed 
by CT. 
.
MRI Cervical ___ ___:
Limited examination due to motion artifact. Multilevel 
degenerative changes with most significant change at C5-6 level. 
Apparent signal abnormality within the cord may be real or 
artifactual. Repeat examination is advised once the patient is 
able to tolerate the exam or with conscious sedation. The change 
from wet read and findings/recommendations were communicated to 
Dr. ___ by Dr. ___ at 9:30 a.m. on ___. 
.
MRI head ___:
Bilateral subacute ischemic changes involving the basal ganglia 
bilaterally with extension into the body of the caudate nucleus 
on the right with no evidence of hemorrhagic transformation. 
There is no evidence of mass effect or hydrocephalus. 
.
CXR ___:
The NG tube tip is in the stomach. The ET tube tip is most 
likely 5 cm above the carina. There is worsening of the left 
lower lobe atelectasis. The enlargement of both pulmonary 
arteries is unchanged. The upper lungs are essentially clear.
.
ECHO ___:
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF 70%). The right ventricular free wall is hypertrophied. 
The right ventricular cavity is dilated with borderline normal 
free wall function. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Trivial mitral 
regurgitation is seen. There is no pericardial effusion.  
.
CT Head ___:
IMPRESSION: Bilateral basal ganglial infarcts ( acute - subacute 
and a few 
chronic alcunar infarcts) without evidence of hemorrhagic 
transformation or hydrocephalus or significant mass effect. Pl. 
see prior MR for additional details.  

 
Brief Hospital Course:
___ year-old female with schizoaffective disorder, history of 
stroke, and hypothyroidism who was admitted on ___ with an 
NSTEMI and an acute stroke s/p hypercarbic respiratory failure 
secondary to aspiration PNA, who improved but had subsequent 
difficulties swallowing and PEG tube placement.  During the 
subsequent hospital course, the patient underwent speech therapy 
and continued to improve to the point of tolerating increasing 
PO trials prior to discharge to rehab.
.
# Stroke: The patient was found to have subacute strokes in her 
basal ganglia and caudate and had weakness and dsyarthria 
present on admission, which corresponded to her neurologic 
deficits. She was initially unable to cooperative fully with a 
neuro exam, but did have hyperreflexic reflexes on exam here.  
Neurology was consulted and recommended aspirin and plavix, 
which was held briefly around the time of her PEG placement.  An 
NG tube was attempted to be placed, but patient did not tolerate 
exam.  She failed speech and swallow multiple times.  A PEG tube 
was placed for tube feeding after serial discussions with the 
patient and family. Later in her hospital course, prior to 
discharge, a video swallow study was conducted, showing that she 
had regained some swallowing function and so pureed solids were 
started in addition to tube feeds. The patient will need serial 
speech and swallow evaluations at her rehab center to monitor 
her improvement and determine when, if at all, the PEG tube can 
be removed.
.  
# Hypercarbic respiratory failure: Thought to be secondary to 
aspiration pneumonia.  She finished a full 8 day course of 
vancomycin/cefepime/flagyl.  Respiratory status was stable once 
extubated.
.
# Spinal Stenosis: Patient had trauma CT on admission remarkable 
for severe spinal stenosis with some cord compression. ___ 
surgery was consulted and felt no acute need for surgery or 
steroids however when her condition improves will likely need 
surgery.  Initially had a hard collar in place, but after 
discussion with Ortho ___, felt that collar could be removed.  
Patient will need follow-up with Dr. ___ in Ortho ___ in 2 
weeks.
.
# Trop leak/Demand ischemia: The patient was initially admitted 
to cardiology and felt to have demand ischemia in the setting of 
recent fall and stroke. She was inititally treated with a 
heparin gtt which was stopped shortly after admissison as the 
cardiologists felt it was demand ischemia in setting of 
infection. Her enzymes trended down and no ECG changes were 
noted.  TTE on ___ showed normal systolic function with no wall 
motion abnormalities.
. 
# Acute kidney injury: Elevated Cr on presentation, but trended 
down with IVF. Likely secondary to prerenal intravascular 
depleption. 
.
# Urinary Retention: The patient was found to have urinary 
retention after extubation. She failed several voiding trials 
and so a foley was placed. The patient should have serial 
voiding trials at rehab to determine when the foley can be 
removed. 
.
# Nutrition: As noted, the patient underwent PEG placement. She 
was maintained on TPN pre-procedurally, while the patient and 
family considered placement of a PEG tube and while the patient 
deferred a dobhoff feeding tube.  The day prior to discharge, 
the patient was able to start PO trials after her video swallow 
study, and the goal was to gradually increase PO intake by 
transitioning to night-time feedings at rehab.

Comm: sister-in-law (___ ___
Code: Full code  

 
Medications on Admission:
Synthroid 50 mcg daily  
Lithium 600 mg PO daily  
ASA 81 mg PO daily  
Colace 100 mg PO daily  
Crestor 10 mg daily  
Vit D 400 units PO daily.  

 
Discharge Medications:
1. levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO once a 
day.  
3. Crestor 10 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Vitamin D-3 400 unit Tablet Sig: One (1) Tablet PO once a 
day. Tablet(s) 
5. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
7. acetaminophen 325 mg Tablet Sig: One (1) Tablet PO every six 
(6) hours as needed for pain.  
8. lithium citrate 8 mEq/5 mL Solution Sig: Six Hundred (600) mg 
PO once a day.  
9. Tube Feeds
Tubefeeding:  Fibersource HN Full strength; 
 Starting rate:10 ml/hr; Advance rate by  10 ml q6h Goal rate:50 
ml/hr
 Cycle?: Yes   Cycle ___ Cycle end:800
 Residual Check:q4h Hold feeding for residual >= :200 ml
Flush w/  350  water q4h
10. aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: stroke, Demand ischemia, cervical spinal stenosis, 
dysphagia

Secondary: schizoaffective disorder

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your 
hospitalization.  You were admitted after being found down at 
home.  After further work-up, it was determined that you had a 
stroke.  A CT scan of your neck also showed cervical spinal 
stenosis, or a narrowing of the spinal canal in your neck.  It 
was also thought that you were having a heart attack, however 
this ultimately was not felt to be true.  

Unfortunately, you had an aspiration event and were sent to the 
ICU where you were intubated.  You completed a course of 
antibiotics for an aspiration pneumonia and were able to be 
extubated without difficulty.  You failed several speech and 
swallow exams and needed a PEG tube placed to be able to use 
your GI tract.  This was placed by ___. You started slowly 
re-developing the ability to swallow and take some food by 
mouth. We hope that you will continue to improve your swallowing 
to the point that we be able to remove the PEG tube. 
.
You also developed urinary retention here in the hospital, and 
are being discharged with a foley. Your rehab center should 
continue to do voiding trials. We hope you will improve and we 
will be able to remove the foley.
.
We made the following changes to your medications:
STARTED Plavix
STARTED Senna
.
Please go to all of the appointments scheduled below.

 
Followup Instructions:
___